US06353010B1
2,3-Diaminoanisole
2-Amino-3-nitroanisole (4.3 g) was hydrogenated in ethyl acetate (200 ml) using catalytic 10% palladium on charcoal under an atmosphere of hydrogen at ambient temperature. Once complete the reaction mixture was filtered through Celite and the filtrate evaporated in vacuo to afford the title compound as a brown liquid (3.60 g).

reactant | 2-Amino-3-nitroanisole | 4.3 g | NC1=C(C=CC=C1[N+](=O)[O-])OC | C7H8N2O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 2,3-Diaminoanisole | 3.60 g | NC1=C(C=CC=C1N)OC | C7H10N2O
